US08426448B2
Place a 1.6 M solution of n-butyl lithium in hexane (31.2 mL, 50 mmol) in a dry 250 mL round bottomed flask fitted with a stir bar, septum and temperature probe. Cool in a dry-ice acetone bath to −76° C. Add THF (30 mL) to the solution, then add a solution of 2,6-dibromopyridine (11.5 g, 50 mmol) in THF (60 mL) slowly via syringe maintaining the temperature under −60° C. Stir the dark yellow-brown solution for 30 minutes in the dry-ice bath, then add acetone (6 mL, 80 mmol). Stir the deep green solution in the dry-ice bath for 15 minutes then allow the reaction to warm to room temperature. After an hour add a 5% aqueous solution of ammonium chloride (50 mL) carefully. Extract with dichloromethane, evaporate to give 2-(6-bromo-pyridin-2-yl)-propan-2-ol (10.6 g, 98%) as an orange oil. MS (m/z): 216 and 218 (M+H)+.

reactant | n-butyl lithium | C(CCC)[Li]
reactant | hexane | 50 mmol, 31.2 mL | CCCCCC | C6H14
reactant | 2,6-dibromopyridine | 50 mmol, 11.5 g | BrC1=NC(=CC=C1)Br | C5H3Br2N
reactant | dry-ice | C(=O)=O | CO2
reactant | acetone | 80 mmol, 6 mL | CC(=O)C | C3H6O
reactant | ammonium chloride | 50 mL | [Cl-].[NH4+]
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 2-(6-bromo-pyridin-2-yl)-propan-2-ol | 10.6 g, 98% | BrC1=CC=CC(=N1)C(C)(C)O | C8H10BrNO
